US03957783
To a solution of 4.0 g of 4-phenyl-1,2-dihydrothieno[2,3-d]pyrimidin-2-one in 80 ml of dimethylformamide is added 0.8 g of 63% sodium hydride. The mixture is stirred at 60°C for 1 hour. The mixture is cooled to room temperature and 4.97 g of methyl iodide in 15 ml of dimethylformamide is added dropwise thereto at 10°C. The mixture is stirred for 2 hours at room temperature. The reaction mixture is poured into water and extracted with chloroform. The chloroform extracts are washed with water, dried over sodium sulfate, and the solvent is removed under reduced pressure. The residue is chromatographed on silica gel, using chloroform as an eluent. From the first fraction, 2-methoxy-4-phenylthieno[2,3-d]pyrimidine is obtained as crystals having a melting point of 160° - 161.5°C (after recrystallization from ethanol). From the second fraction, 1-methyl-4-phenyl-1,2-dihydrothieno[2,3-d]pyrimidin-2-one is obtained as crystals having a melting point of 256° - 257.5°C (after recrystallization from ethanol). From the third fraction, 3-methyl-4-phenyl-3H-thieno[2,3-d]pyrimidin-2-one is obtained as crystal having a melting point of 175° - 181°C (after recrystallization from ethanol).

reactant | 4-phenyl-1,2-dihydrothieno[2,3-d]pyrimidin-2-one | 4.0 g | C1(=CC=CC=C1)C=1C2=C(NC(N1)=O)SC=C2 | C12H8N2OS
reactant | sodium hydride | 0.8 g | [H-].[Na+]
reactant | methyl iodide | 4.97 g | CI | CH3I
reactant | water | O | H2O
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 2-methoxy-4-phenylthieno[2,3-d]pyrimidine | COC=1N=C(C2=C(N1)SC=C2)C2=CC=CC=C2 | C13H10N2OS
